US09102662B2
N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide [(XXIVA), R1=R2=R3=H, R=3,5-difluorophenyl, PG1=trifluoroacethyl]
To a suspension of 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine (0.5 g, 1.93 mmol) in anhydrous dichloromethane (20 mL), under vigorous stirring and cooled to 0° C., trifluoroacetic anhydride was added dropwise and the dense slurry was stirred for 3.5 hours. The reaction mixture was poured into 3% NaHCO3 solution and extracted with dichloromethane. The organic layer was washed with brine, dried over Na2SO4 and concentrated to yield a crude white solid that was directly used in the next step.

reactant | 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine | 1.93 mmol, 0.5 g | FC=1C=C(CC=2C=C3C(=NNC3=CC2)N)C=C(C1)F | C14H11F2N3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C(F)(F)F)=O)C=C(C1)F | C16H10F5N3O
